US07666864B2
N-{3-[3-Fluoro-4-(2-methyl-6-nitro-2,3-dihydro-imidazo[2,1-b]oxazol-2-ylmethoxy)-phenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide
The title compound was prepared by following the same procedure as described in the preparation of Example 36, 2-(4-Bromo-phenoxymethyl)-2-methyl-6-nitro-2,3-dihydro-imidazo[2,1-b]oxazole (prepared similarly as described by Sasaki, H. et al: Journal of Medicinal Chemistry (2006), 49(26), 7854-7860), except N-[3-(3-fluoro-4-hydroxy-phenyl)-2-oxo-oxazolidin-5(S)-ylmethyl]-acetamide was used in the place of 4-bromophenol. The product isolated as a solid. ESI MS m/z 450 (M+H+).

reactant | 2-(4-Bromo-phenoxymethyl)-2-methyl-6-nitro-2,3-dihydro-imidazo[2,1-b]oxazole | BrC1=CC=C(OCC2(CN3C(O2)=NC(=C3)[N+](=O)[O-])C)C=C1 | C13H12BrN3O4
reactant | N-[3-(3-fluoro-4-hydroxy-phenyl)-2-oxo-oxazolidin-5(S)-ylmethyl]-acetamide | FC=1C=C(C=CC1O)N1C(O[C@H](C1)CNC(C)=O)=O | C12H13FN2O4
product | N-{3-[3-Fluoro-4-(2-methyl-6-nitro-2,3-dihydro-imidazo[2,1-b]oxazol-2-ylmethoxy)-phenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide | FC=1C=C(C=CC1OCC1(CN2C(O1)=NC(=C2)[N+](=O)[O-])C)N2C(OC(C2)CNC(C)=O)=O | C19H20FN5O7
